Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rash
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 Ms. ___ is a ___ year old woman presenting with h/o of 
psoriasis, presenting as transfer from OSH with psioriasis 
flare.  
 Of note, the patient has been on methotrexate since ___ with 
variable control. She has had elevated LFTs in the setting of 
escalating doses of methotrexate over the past few months and 
most recently, she was to be switched to opremilast for ongoing 
management of her symptoms with cessation of MTX due to elevated 
transamines. Unfortunately, due to co-pay issues, she has not 
been able to obtain this medication and was started on acitretin 
for interim management of her psioriasis about 11 days prior to 
presentation.  
 Since then, she has noted worsening rash involving nearly her 
entire body and presented to the ED for further evaluation, 
initially at ___. She has not had any pain in her eyes or mouth. 
She is not having any dysuria. She has no fever or chills, but 
has had significant discomfort with her progressive psoriasis.  
 At OSH ED, patient's vitals were notable for 97.8, 183/85, 105, 
20, 100% on RA. Exam was notable for Diffuse excoriated 
dermatitis to the bilateral lower extremities with significant 
overlying erythema and tenderness with erythematous blanching 
rash over her entire thorax. Patient reports she was given PO 
steroid prior to transfer (confirmed in medical record). At the 
patient's request, given that her care is predominantly at 
___, she was transferred here for further management.  
 In the ED, initial vitals were: 98.7 55 160/92 16 98% RA  
 
 - Exam notable as above  
 - patient received no further labs or treatments  
 - Derm was consulted, recommending continuation of topical 
treatments, which may worsen psoriasis initially, but eventually 
result in clinical improvement.  
 Upon arrival to the floor, patient reports that she is no 
longer itchy but very concerned about the rash. She also reports 
some blood on toilet paper earlier in the day but no vaginal 
lesions. She is still itchy. She has no joint pain.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI  
 
Past Medical History:
-PSORIASIS  
 -HYPERTENSION  
 -OSTEOPENIA  
 -GRAVE'S DISEASE  
 -HYPOTHYROIDISM  
 -HEARING LOSS, RIGHT  
 -VITAMIN D DEFICIENCY  
 -SMOKING  
 -ANXIETY D/O  
 -HYPERLIPIDEMIA  
 -EYE CARE  
 -HERPES SIMPLEX I  

 
Social History:
___
Family History:
no melanoma nor other skin cancers, father with mesothelioma, 
mother with asthma, brother with psoriasis, daughter with 
colitis  
 
Physical Exam:
On Admission: 
VITAL SIGNS - 97.4 147/76 62 18 94%  
 GENERAL - well appearing, speaking in full sentences, NAD  
 HEENT - MM, no lesions  
 NECK - supple  
 CARDIAC - RRR, no M/R/G  
 LUNGS - CTAB  
 ABDOMEN - soft, non-tender, NABS  
 EXTREMITIES - no edema  
 NEUROLOGIC - grossly intact  
 SKIN - pink patches over chest, abdomen, back thighs, anterior 
calf, feet, pitting of nails, erythema of cuticles  

On Discharge:
VITAL SIGNS - 98.2 150/86 56 16 95% on RA   
 GENERAL - well appearing, speaking in full sentences, NAD  
 HEENT - MM, no lesions  
 NECK - supple  
 CARDIAC - RRR, no M/R/G  
 LUNGS - CTAB  
 ABDOMEN - soft, non-tender, NABS  
 EXTREMITIES - no edema  
 NEUROLOGIC - grossly intact  
 SKIN - pink patches over chest, abdomen, back thighs, anterior 
calf, feet, pitting of nails, erythema of cuticles  

 
Pertinent Results:
Labs on Admission:

___ 05:47AM BLOOD WBC-7.1 RBC-4.60 Hgb-12.7 Hct-40.2 MCV-87 
MCH-27.6 MCHC-31.6* RDW-14.6 RDWSD-46.5* Plt ___
___ 05:47AM BLOOD Glucose-99 UreaN-12 Creat-0.5 Na-137 
K-4.3 Cl-103 HCO3-20* AnGap-18
___ 05:47AM BLOOD ALT-17 AST-23 LD(LDH)-218 TotBili-0.3
___ 05:47AM BLOOD Albumin-4.1 Calcium-9.2 Phos-3.0 Mg-1.7

Micro: none

Reports: No imaging.
 
Brief Hospital Course:
ASSESSMENT AND PLAN: ___ yo woman with psoriasis presenting with 
psoriasis flair. 

Active Issues 
# Psoriasis: The patient presented with acute psoriatic flare. 
Her prior treatment history includes MTX which was discontinued 
due to elevated LFTs and started on acitretin. Per dermatology, 
the effects of acitretin are often delayed and this is not of 
great concern early in the course of treatment. For the acute 
flare, she was treated with clobetasol ointment 0.05% BID under 
occlusion with Saran wrap. She will follow up with dermatology 
and with her PCP at discharge.  

Chronic Issues  
 # Hypothyroidism: continued on home levothyroxine 88mcg PO 
daily  

Transitional issues:
# Patient should continue clobetasol BID until she sees 
dermatology follow-up
# Pt had some vaginal bleeding this admission which was thought 
to be ___ mucosal tears from itching. Please reassess and 
consider referral for formal evaluation for post-menopausal 
bleeding.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Betamethasone Dipro 0.05% Lot. 1 Appl TP DAILY:PRN rash 
2. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID:PRN rash 
3. Ketoconazole 2%  1 Appl TP BID 
4. Levothyroxine Sodium 88 mcg PO DAILY 
5. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP DAILY 
6. acitretin 25 mg oral DAILY 

 
Discharge Medications:
1.  acitretin 25 mg oral DAILY  
2.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID:PRN rash 
RX *clobetasol 0.05 % apply small amount to rash twice a day 
Refills:*0
RX *clobetasol 0.05 % apply small amount to rash twice a day 
Disp #*600 Gram Gram Refills:*0 
3.  Levothyroxine Sodium 88 mcg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Psoriasis flair

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital at ___ 
___ for an acute psoriasis flair. You were treated 
with clobetasol ointment 0.05% under occlusion with Saran wrap 
and your home acitretin. Follow up with your outpatient 
dermatologist for further treatment of your psoriasis. Please 
attend all scheduled follow up appointments. 

Thank you very much, 

Your ___ Care Team
 
Followup Instructions:
___